US06638321B1
a) Preparation of 2-(4-Nitrophenylamino)butan-1-ol
A mixture of 223.0 g (1.58 mol) of 1-fluoro-4-nitrobenzene, 168.5 g (1.89 mol) of 2-amino-1-butanol and 146.8 g (1.06 mol) of potassium carbonate in 630 ml of water was refluxed for 2 hours.

reactant | 1-fluoro-4-nitrobenzene | 1.58 mol, 223.0 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-amino-1-butanol | 1.89 mol, 168.5 g | NC(CO)CC | C4H11NO
reactant | potassium carbonate | 1.06 mol, 146.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 630 ml | O | H2O
product | 2-(4-Nitrophenylamino)butan-1-ol | [N+](=O)([O-])C1=CC=C(C=C1)NC(CO)CC | C10H14N2O3
